*****************************************************************
* NXP PSMN069_100YS
*
* Polarity N-Channel
* Ratings 100V/7.24E-02OHMS/5A
*
* Date Created Sun Oct 17 23:48:00 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN069_100YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 4.30084418749933e-10
RLG GATE 1 1.08091912728048
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 50000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.067294 TC=0.0100565701306447,1.78436212813747e-05
RBD 9 4 0.00283381008013662 TC=0.0100565701306447,1.78436212813747e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.76485154442619e-10
RG 1 2 0.669302875042655

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	571
+ -10	565
+ -5	543
+ -2	483
+ -1	368
+ -0.5	306
+ -0.2	261
+ -0.1	245
+ 0	232
+ 0.1	214.4
+ 0.2	201.2
+ 0.5	177
+ 1	153.76
+ 2	120.16
+ 5	87.17
+ 10	78.47
+ 12	73.62
+ 20	61.45
+ 25	56.54
+ 30	52.75
+ 50	43.18



.MODEL MINT NMOS(Vto=3.75 Kp=3.3306e+01 Nfs=0 Eta=0 Lambda=0 Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24 Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=100.00 Ibv=2.50E-04 Rs=1E-6 Is=1.1392149152104e-13 N=1 M=0.61 VJ=0.68 Fc=0.5 Cjo=2.576e-10 Tt=4.488e-08)

.ENDS






